US04904690
[2-(1-Cyclohexenyl)-4-oxo-4H-[1]-benzopyran-8-yl]acetamide
2-(1-Bromocyclohexyl)-8-cyanomethyl-4-oxo-4H-[1]-benzopyran (3.0 g) was added to polyphosphoric acid (120 ml) and the mixture was heated on an oil bath at about 120° C. for 2 hours. After standing overnight, water (about 300 ml) was added to decompose polyphosphoric acid. Crystals deposited were filtered off and recrystallized form the mixed solvent of dichloromethane and methanol to obtain the title compound, yield 57%.

reactant | 2-(1-Bromocyclohexyl)-8-cyanomethyl-4-oxo-4H-[1]-benzopyran | 3.0 g | BrC1(CCCCC1)C=1OC2=C(C(C1)=O)C=CC=C2CC#N | C17H16BrNO2
reactant | water | about 300 ml | O | H2O
product | [2-(1-Cyclohexenyl)-4-oxo-4H-[1]-benzopyran-8-yl]acetamide | yield 57% | C1(=CCCCC1)C=1OC2=C(C(C1)=O)C=CC=C2CC(=O)N | C17H17NO3
